US09023847B2
17. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-pyridin-4-yl-ethyl)-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using 4-(2-aminoethyl)pyridine instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 364 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.53 (1H, br. s.) 10.25 (1H, s) 8.40-8.46 (2H, m) 8.21 (1H, t, J=5.54 Hz) 8.02 (1H, d, J=5.32 Hz) 7.77 (1H, d, J=5.47 Hz) 7.47 (1H, d, J=5.42 Hz) 7.32 (1H, dd, J=3.49, 2.56 Hz) 7.21-7.27 (2H, m) 6.81 (1H, d, J=5.47 Hz) 6.43 (1H, dd, J=3.49, 1.88 Hz) 3.47-3.55 (2H, m) 2.85 (2H, t, J=7.15 Hz)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | 4-(2-aminoethyl)pyridine | NCCC1=CC=NC=C1 | C7H10N2
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-pyridin-4-yl-ethyl)-amide | N1=CC=C(C=C1)CCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C19H17N5OS
